US07678826B2
2-[2-(5-Chloro-2-methoxycarbonylmethoxy-benzyl)-phenoxy]-propionic acid
A solution comprising a 1:1 mixture of [4-chloro-2-(2-hydroxy-benzyl)-phenoxy]-acetic acid and [4-chloro-2-(2-hydroxy-benzyl)-phenoxy]-acetic acid methyl ester (3.32 g, 0.011 mol—approx.) in methanol (70 mL) is treated dropwise with concentrated sulphuric acid (2.2 mL) and heated to reflux for 2 hours. The mixture is cooled to RT and the solvent is removed in vacuo. The crude product is dissolved in EtOAc (300 mL) and washed with saturated sodium bicarbonate solution (300 mL). The organic layer is separated and the aqueous portion is extracted with EtOAc (200 mL). The organic extracts are combined, washed with water (300 mL), brine (300 mL), dried MgSO4 and concentrated in vacuo to yield a solid which is dried in a vacuum oven at 40° C. to yield the titled product.

reactant | [4-chloro-2-(2-hydroxy-benzyl)-phenoxy]-acetic acid | ClC1=CC(=C(OCC(=O)O)C=C1)CC1=C(C=CC=C1)O | C15H13ClO4
reactant | [4-chloro-2-(2-hydroxy-benzyl)-phenoxy]-acetic acid methyl ester | 0.011 mol, 3.32 g | COC(COC1=C(C=C(C=C1)Cl)CC1=C(C=CC=C1)O)=O | C16H15ClO4
reactant | sulphuric acid | 2.2 mL | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 70 mL | CO | CH4O
product | 2-[2-(5-Chloro-2-methoxycarbonylmethoxy-benzyl)-phenoxy]-propionic acid | ClC=1C=CC(=C(CC2=C(OC(C(=O)O)C)C=CC=C2)C1)OCC(=O)OC | C19H19ClO6
